US06777428B1
4-[3-(phenylthioureido)benzoyl]-1-methylpiperidine
Beginning with 4-[3-aminobenzoyl]-1-methylpiperidine (25 mg, 0.115 mmol) and phenyl isothiocyanate (82 μL, 0.688 mmol), 40.5 mg (100%) of the title compound were recovered.

reactant | 4-[3-aminobenzoyl]-1-methylpiperidine | 0.115 mmol, 25 mg | NC=1C=C(C(=O)C2CCN(CC2)C)C=CC1 | C13H18N2O
reactant | phenyl isothiocyanate | 0.688 mmol, 82 μL | C1(=CC=CC=C1)N=C=S | C7H5NS
product | 4-[3-(phenylthioureido)benzoyl]-1-methylpiperidine | 40.5 mg, 100% | C1(=CC=CC=C1)NC(NC=1C=C(C(=O)C2CCN(CC2)C)C=CC1)=S | C20H23N3OS
